US04746669
Step D: Preparation of N-methyl-2-thioacetamidoimidazole
Hydrogen sulfide was bubbled to a solution of 1.4 gm (11.5 mmole) of N-methyl-2-cyanomethylimidazole and 10 ml dry pyridine stirred in a medium pressure glass Carius tube at 0° C. Then 1.5 equivalents of triethylamine was added (2.50 ml) and the pressure tube was sealed and heated on a steam bath for 4 hours. It was cooled and cracked open to vent any excess hydrogen sulfide. The product crystallized out of the solution when it was cooled to 0° C. The crystals were filtered and washed with 2×5 ml of hexane to afford 1.29 gm of N-methyl-2-thioacetamidioimidazole, m.p. 155°-160° C. (decomposition).

reactant | Hydrogen sulfide | S | H2S
reactant | N-methyl-2-cyanomethylimidazole | 11.5 mmole, 1.4 gm | CN1C(=NC=C1)CC#N | C6H7N3
reactant | triethylamine | 1.5 equivalents | C(C)N(CC)CC | C6H15N
solvent | pyridine | 10 ml | N1=CC=CC=C1 | C5H5N
product | N-methyl-2-thioacetamidoimidazole | CN1C(=NC=C1)NC(C)=S | C6H9N3S
